US05143918
A solution of 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone(1.0 g, 1.06 mmol) in MeCl2 (20 ml) containing 4-dimethylaminopyridine (312 mg, 2.55 mmol) and diisopropylethylamine (319 mg, 2.47 mmol) was treated with o-nitrobenzenesulfonyl chloride (476 mg, 2.14 mmol). After stirring at RT for 18 hr, the reaction mixture was diluted with MeCl2 (20 ml). The resultant suspension was filtered and the filtrate passed over SiO2 (90 g). Elution with n-hexane/ethyl acetate (1:1) yielded 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-o-nitrobenzenesulfonyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (933 mg, 78%) and starting material (206 mg, 20%).

reactant | 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 1.06 mmol, 1.0 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H89NO12Si
reactant | diisopropylethylamine | 2.47 mmol, 319 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | o-nitrobenzenesulfonyl chloride | 2.14 mmol, 476 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | MeCl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.55 mmol, 312 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | MeCl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-o-nitrobenzenesulfonyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 933 mg, 78% | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C58H92N2O16SSi
